### PR TITLE
[Merged by Bors] - feat(GroupTheory/GroupAction/Blocks): order iso between blocks and subgroups

### PR DESCRIPTION
**Pull request by AntoineChambert-Loir**
This PR proves the order isomorphism between blocks containing a point and subgroups containing its stabilizer.

---

This is a new branch to correct the bad merge of #12050 
[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/GroupTheory/GroupAction/Blocks.lean [hunk 1]
```diff
@@ -381,6 +381,93 @@ theorem IsBlockSystem.of_normal {N : Subgroup G} [N.Normal] :
...
+/- For transitive actions, construction of the lattice equivalence
+  `block_stabilizerOrderIso` between
+  - blocks of `MulAction G X` containing a point `a ∈ X`,
+  and
+  - subgroups of G containing `stabilizer G a`.
+  (Wielandt, th. 7.5) -/
+
+/-- The orbit of a under a subgroup containing the stabilizer of a
+ is a block -/
+theorem IsBlock.of_orbit' {H : Subgroup G} {a : X} (hH : stabilizer G a ≤ H) :
```
Comment (tb65536) [inline Mathlib/GroupTheory/GroupAction/Blocks.lean:395]: Why is this primed? Did you want to call it `isBlock_orbit'`?

File: Mathlib/GroupTheory/GroupAction/Blocks.lean [hunk 2]
```diff
@@ -381,6 +381,93 @@ theorem IsBlockSystem.of_normal {N : Subgroup G} [N.Normal] :
...
+    {a : X} (ha : a ∈ B) : MulAction.orbit (stabilizer G B) a = B := by
+  ext x
+  constructor
+  · rintro ⟨⟨k, k_mem⟩, rfl⟩
+    simp only [Submonoid.mk_smul]
+    rw [← k_mem, Set.smul_mem_smul_set_iff]
+    exact ha
+  · intro hx
+    obtain ⟨k, rfl⟩ := exists_smul_eq G a x
+    refine ⟨⟨k, hB.def_mem ha hx⟩, rfl⟩
```
Comment (tb65536) [inline Mathlib/GroupTheory/GroupAction/Blocks.lean:426]:
```suggestion
    exact ⟨⟨k, hB.def_mem ha hx⟩, rfl⟩
```

File: Mathlib/GroupTheory/GroupAction/Blocks.lean (hunk 1 above)
Comment (AntoineChambert-Loir) [reply Mathlib/GroupTheory/GroupAction/Blocks.lean:395]: Because there used to be `IsBlock.of_orbit` which says `IsBlock G (MulAction.orbit G a)` (so with H = top), and I don't remember why that theorem is not in this PR. (That may be a bug of me splitting one file into 5 PR).

File: Mathlib/GroupTheory/GroupAction/Blocks.lean [hunk 3]
```diff
@@ -381,6 +381,93 @@ theorem IsBlockSystem.of_normal {N : Subgroup G} [N.Normal] :
...
+    rw [← k_mem, Set.smul_mem_smul_set_iff]
+    exact ha
+  · intro hx
+    obtain ⟨k, rfl⟩ := exists_smul_eq G a x
+    exact ⟨⟨k, hB.def_mem ha hx⟩, rfl⟩
+
+/-- A subgroup containing the stabilizer of `a`
+  is the stabilizer of the orbit of `a` under that subgroup -/
+theorem stabilizer_orbit_eq {a : X} {H : Subgroup G}
+    (hH : stabilizer G a ≤ H) :
```
Comment (tb65536) [inline Mathlib/GroupTheory/GroupAction/Blocks.lean:431]:
```suggestion
theorem stabilizer_orbit_eq {a : X} {H : Subgroup G} (hH : stabilizer G a ≤ H) :
```

File: Mathlib/GroupTheory/GroupAction/Blocks.lean [hunk 4]
```diff
@@ -381,6 +381,93 @@ theorem IsBlockSystem.of_normal {N : Subgroup G} [N.Normal] :
...
+  intro g hg
+  apply Or.resolve_right (hB.smul_eq_or_disjoint g)
+  rw [Set.not_disjoint_iff]
+  refine ⟨a, ?_, ha⟩
+  rw [← hg, Set.smul_mem_smul_set_iff]; exact ha
+
+/-- A block is the orbit of a under its stabilizer -/
+theorem IsBlock.orbit_stabilizer_eq
+    [htGX : IsPretransitive G X] {B : Set X} (hB : IsBlock G B)
+    {a : X} (ha : a ∈ B) : MulAction.orbit (stabilizer G B) a = B := by
```
Comment (tb65536) [inline Mathlib/GroupTheory/GroupAction/Blocks.lean:417]: Either move line 416 to line 415, or move `{a : X} (ha : a ∈ B)` to line 416.

File: Mathlib/GroupTheory/GroupAction/Blocks.lean [hunk 5]
```diff
@@ -381,6 +381,93 @@ theorem IsBlockSystem.of_normal {N : Subgroup G} [N.Normal] :
...
+  simp_rw [IsBlock.def_one, or_iff_not_imp_right, Set.not_disjoint_iff]
+  rintro g ⟨-, ⟨-, ⟨h₁, rfl⟩, h⟩, ⟨h₂, rfl⟩⟩
+  simp_rw [← inv_smul_eq_iff, H.smul_def, ← mul_smul] at h
+  specialize hH h
+  rw [mul_mem_cancel_left h₂⁻¹.2, mul_mem_cancel_right h₁.2] at hH
+  rw [← Subgroup.coe_mk H g hH, ← H.smul_def, smul_orbit (⟨g, hH⟩ : H) a]
+
+/-- If B is a block containing a , then the stabilizer of B contains the stabilizer of a -/
+theorem IsBlock.stabilizer_le
+    {B : Set X} (hB : IsBlock G B) {a : X} (ha : a ∈ B) :
```
Comment (tb65536) [inline Mathlib/GroupTheory/GroupAction/Blocks.lean:406]:
```suggestion
theorem IsBlock.stabilizer_le {B : Set X} (hB : IsBlock G B) {a : X} (ha : a ∈ B) :
```

File: Mathlib/GroupTheory/GroupAction/Blocks.lean [hunk 6]
```diff
@@ -381,6 +381,93 @@ theorem IsBlockSystem.of_normal {N : Subgroup G} [N.Normal] :
...
+
+/- For transitive actions, construction of the lattice equivalence
+  `block_stabilizerOrderIso` between
+  - blocks of `MulAction G X` containing a point `a ∈ X`,
+  and
+  - subgroups of G containing `stabilizer G a`.
+  (Wielandt, th. 7.5) -/
+
+/-- The orbit of a under a subgroup containing the stabilizer of a
+ is a block -/
```
Comment (tb65536) [inline Mathlib/GroupTheory/GroupAction/Blocks.lean:394]:
```suggestion
/-- The orbit of `a` under a subgroup containing the stabilizer of `a` is a block -/
```

File: Mathlib/GroupTheory/GroupAction/Blocks.lean [hunk 7]
```diff
@@ -381,6 +381,93 @@ theorem IsBlockSystem.of_normal {N : Subgroup G} [N.Normal] :
...
+theorem IsBlock.of_orbit' {H : Subgroup G} {a : X} (hH : stabilizer G a ≤ H) :
+    IsBlock G (MulAction.orbit H a) := by
+  simp_rw [IsBlock.def_one, or_iff_not_imp_right, Set.not_disjoint_iff]
+  rintro g ⟨-, ⟨-, ⟨h₁, rfl⟩, h⟩, ⟨h₂, rfl⟩⟩
+  simp_rw [← inv_smul_eq_iff, H.smul_def, ← mul_smul] at h
+  specialize hH h
+  rw [mul_mem_cancel_left h₂⁻¹.2, mul_mem_cancel_right h₁.2] at hH
+  rw [← Subgroup.coe_mk H g hH, ← H.smul_def, smul_orbit (⟨g, hH⟩ : H) a]
+
+/-- If B is a block containing a , then the stabilizer of B contains the stabilizer of a -/
```
Comment (tb65536) [inline Mathlib/GroupTheory/GroupAction/Blocks.lean:404]:
```suggestion
/-- If `B` is a block containing `a`, then the stabilizer of `B` contains the stabilizer of `a` -/
```

File: Mathlib/GroupTheory/GroupAction/Blocks.lean [hunk 8]
```diff
@@ -381,6 +381,93 @@ theorem IsBlockSystem.of_normal {N : Subgroup G} [N.Normal] :
...
+theorem IsBlock.stabilizer_le
+    {B : Set X} (hB : IsBlock G B) {a : X} (ha : a ∈ B) :
+    stabilizer G a ≤ stabilizer G B := by
+  intro g hg
+  apply Or.resolve_right (hB.smul_eq_or_disjoint g)
+  rw [Set.not_disjoint_iff]
+  refine ⟨a, ?_, ha⟩
+  rw [← hg, Set.smul_mem_smul_set_iff]; exact ha
+
+/-- A block is the orbit of a under its stabilizer -/
```
Comment (tb65536) [inline Mathlib/GroupTheory/GroupAction/Blocks.lean:414]:
```suggestion
/-- A block is the orbit of `a` under its stabilizer -/
```

File: Mathlib/GroupTheory/GroupAction/Blocks.lean [hunk 9]
```diff
@@ -381,6 +381,93 @@ theorem IsBlockSystem.of_normal {N : Subgroup G} [N.Normal] :
...
+    simp_rw [H.smul_def, ← mul_smul, ← mem_stabilizer_iff] at h
+    exact (mul_mem_cancel_right b.2).mp (hH h)
+  · intro hg
+    rw [mem_stabilizer_iff, ← Subgroup.coe_mk H g hg, ← Submonoid.smul_def]
+    apply smul_orbit
+
+variable (G)
+
+/-- Order equivalence between blocks in X containing a point a
+ and subgroups of G containing the stabilizer of a (Wielandt, th. 7.5)-/
```
Comment (tb65536) [inline Mathlib/GroupTheory/GroupAction/Blocks.lean:446]:
```suggestion
/-- Order equivalence between blocks in `X` containing a point `a`
 and subgroups of `G` containing the stabilizer of `a` (Wielandt, th. 7.5)-/
```

File: Mathlib/GroupTheory/GroupAction/Blocks.lean (hunk 1 above)
Comment (tb65536) [reply Mathlib/GroupTheory/GroupAction/Blocks.lean:395]: Isn't that theorem called `isBlock_orbit`?

Comment (AntoineChambert-Loir) [reply Mathlib/GroupTheory/GroupAction/Blocks.lean:395]: You're right. Here is why I'm confused. I am tempted to use dot notation, and since that applies to `IsBlock` property, to keep the `IsBlock` namespace. But sometimes my good intentions don't work as well.
So `isBlock_orbit'` should at least be consistent with the first one.

File: Mathlib/GroupTheory/GroupAction/Blocks.lean (hunk 6 above)
Comment (AntoineChambert-Loir) [reply Mathlib/GroupTheory/GroupAction/Blocks.lean:394]: (As you see, I have a not so wide screen and I'm a very 80 column guy… I'll follow your recommendations anyway.)

Comment (tb65536) [reply Mathlib/GroupTheory/GroupAction/Blocks.lean:394]: Ah, that makes sense :)

File: Mathlib/GroupTheory/GroupAction/Blocks.lean (hunk 1 above)
Comment (AntoineChambert-Loir) [reply Mathlib/GroupTheory/GroupAction/Blocks.lean]: I changed the name to `IsBlock.of_orbit`.

File: Mathlib/GroupTheory/GroupAction/Blocks.lean [hunk 10]
```diff
@@ -381,6 +381,93 @@ theorem IsBlockSystem.of_normal {N : Subgroup G} [N.Normal] :
...
+    { B : Set X // a ∈ B ∧ IsBlock G B } ≃o Set.Ici (stabilizer G a) where
+  toFun := fun ⟨B, ha, hB⟩ => ⟨stabilizer G B, hB.stabilizer_le ha⟩
+  invFun := fun ⟨H, hH⟩ =>
+    ⟨MulAction.orbit H a, MulAction.mem_orbit_self a, IsBlock.of_orbit hH⟩
+  left_inv := fun ⟨B, ha, hB⟩ =>
+    (id (propext Subtype.mk_eq_mk)).mpr (hB.orbit_stabilizer_eq ha)
+  right_inv := fun ⟨H, hH⟩ =>
+    (id (propext Subtype.mk_eq_mk)).mpr (stabilizer_orbit_eq hH)
+  map_rel_iff' := by
+    rintro ⟨B, ha, hB⟩; rintro ⟨B', ha', hB'⟩
```
Comment (tb65536) [inline Mathlib/GroupTheory/GroupAction/Blocks.lean:457]: Does this work?
```suggestion
    rintro ⟨B, ha, hB⟩ ⟨B', ha', hB'⟩
```

**Review by tb65536 — APPROVED** [review]

**Review by jcommelin — COMMENTED** [review]
bors d+
